data/mechanisms/records/IMS4-EQ4.27.json
{"mechanism_id": "IMS4-EQ4.27", "species": [{"species_id": "ketone_radical_cation", "mapped_smiles": "[CH3:1][C:2](=[O+:3])[CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acylium_ion", "mapped_smiles": "[CH3:4][C:2]#[O+:3]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical_Rprime", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:2]#[O+:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_cation_R", "mapped_smiles": "[CH3+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ketone_radical_cation"]}, {"state_id": "state_after_alpha", "species_ids": ["acylium_ion", "methyl_radical_Rprime"]}, {"state_id": "state_products", "species_ids": ["carbon_monoxide", "methyl_cation_R", "methyl_radical_Rprime"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_after_alpha", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_cleavage", "from_state": "state_after_alpha", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 66, "equation": "4.27", "section": "Even-electron ions (Sec. 4.4/4.9)"}, "confidence": 0.9, "curator_note": "Generic scheme R'-C(=O)-R, ketone molecular ion n-ionized at oxygen; step 1 is the alpha-cleavage that expels R'. and forms the acylium R-C#O(+). Book draws 3 arc(s); moves <1,2,3> are ALL drawn on the page -- the odd electron on O into the forming (third) C-O bond (move 1), one electron of the R'-C sigma bond into that same bond (move 2), and the second electron of that sigma bond onto the departing R' radical (move 3). No implicit homolysis hook is required. Instantiated as acetone radical cation CH3-C(=O)-CH3(+.) (R'=CH3, R=CH3): acylium = CH3-C#O(+) at m/z 43.0178."}, {"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 66, "equation": "4.27", "section": "Even-electron ions (Sec. 4.4/4.9)"}, "confidence": 0.9, "curator_note": "Step 2 (labelled 'i') is the inductive cleavage of the even-electron acylium R-C#O(+): the R-C sigma bond breaks heterolytically with both electrons going to the acyl carbon, expelling neutral CO and leaving R(+). Book draws 1 arc (a single full curved arrow from the R-C bond onto the carbon); move 1 (electron_count 2) is that drawn arrow. Neutral CO is encoded as the standard [C-]#[O+] localized form (net-neutral, closed shell); the C-O triple bond is retained. Text notes this two-step route is less favourable (0.2-0.8 eV) than one-step Eq 4.25 but is not rejected. R(+) computed m/z 15.0229 derives from R=CH3, not the book (no m/z or % printed)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_R_cation", "species_id": "methyl_cation_R", "step_id": "step_inductive_cleavage", "observed_mz": 15.0229, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
